US09079865B2
A 50-mL, 3-necked, round-bottomed flask was charged with (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.25 g) and EtOAc (10.0 mL). 4-Hydrazinylpyridine hydrochloride (0.16 g, 1.2 eq.) was added at −40° C. followed by the simultaneous addition of T3P (50% in EtOAc, 0.85 mL, 2.0 eq.) and DIPEA (0.49 mL, 4.0 eq.). The reaction mixture was stirred for 30 min at −40° C. before being concentrated under reduced pressure (35° C., 20 mmHg) to afford 0.35 g of crude material. Purification by column chromatography using MeOH:CH2Cl2 as a mobile phase (compound was eluted with 4% MeOH in CH2Cl2) afforded 80 mg (yield: 29.85%) (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyridin-4-yl)acrylohydrazide. 1H NMR (400 MHz, DMSO-d6) δ, 10.53 (br s, NH exchangeable, 1H), 9.58 (s, 1H), 8.88 (br s, NH exchangeable, 1H), 8.84 (s, 2H), 8.29 (s, 1H), 8.09-8.11 (d, 2H), 7.52-7.54 (d, J=10.4 Hz, 1H), 6.66-6.69 (m, 2H), 6.06-6.10 (d, J=14.4 Hz, H); LCMS for C18H13F6N6O [M+H]+ 443.33. found 443.24 (RT 2.241 min, purity: 90.17%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.25 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 4-Hydrazinylpyridine hydrochloride | 0.16 g, 1.2 eq. | Cl.N(N)C1=CC=NC=C1
reactant | T3P | 0.85 mL, 2.0 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.49 mL, 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 10.0 mL | CCOC(=O)C | C4H8O2
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyridin-4-yl)acrylohydrazide | 80 mg, yield: 29.85% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NNC1=CC=NC=C1)(F)F | C18H12F6N6O
